US07566736B2
73 mg of 2-fluoro-5-trifluoromethylphenyl isocyanate are added to a solution of 80 mg of 3-(4-aminophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide in 18 ml of tetrahydrofuran. After stirring for 1 hour, the mixture is concentrated under reduced pressure and the residue is purified by chromatography on a silica column, elution being carried out with a mixture of cyclohexane and ethyl acetate (20/80 by volume) to give 110 mg of 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrolo[3,2-b]pyridine-2-carboxamide, the characteristics of which are as follows:

reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 73 mg | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 3-(4-aminophenyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxamide | 80 mg | NC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C(=O)N | C14H12N4O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrolo[3,2-b]pyridine-2-carboxamide | 110 mg | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C(=O)N)=O | C22H15F4N5O2
